US04643996
5-(p-Chlorophenyl)-2-furoic Acid Isopropylidenehydrazide
A mixture of 50 g (0.21 mole) of 5-(p-chlorophenyl)-2-furoic acid hydrazide in 500 ml of acetone was heated at reflux overnight. The reaction mixture was filtered while still warm. Crystalline solid separated readily from the filtrate upon cooling. The solid was collected, washed well with acetone and air dried. The yield was 40 g (69%). Recrystallization of 2 g from acetone gave 1.3 g of analytically pure product, m.p. 167°-169°.

reactant | 5-(p-chlorophenyl)-2-furoic acid hydrazide | 0.21 mole, 50 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)NN | C11H9ClN2O2
reactant | acetone | 500 ml | CC(=O)C | C3H6O
product | 5-(p-Chlorophenyl)-2-furoic Acid Isopropylidenehydrazide | C(C)(C)=NNC(=O)C=1OC(=CC1)C1=CC=C(C=C1)Cl | C14H13ClN2O2
